US07056918B2
1-Ethyl-3-methyl-5-[2-(morpholine-4-carbonyl)-5-m-tolyl-3H-imidazol-4-yl]-1,3-dihydro-benzoimidazol-2-one
A mixture of 1-ethyl-3-methyl-5-(5-m-tolyl-2-trifluoromethyl-3H-imidazol-4-yl)-1,3-dihydro-benzoimidazol-2-one (prepared as described above, 50 mg, 0.13 mmol), N,N-dimethylaminopyridine (48.7 mg, 0.40 mmol), EDCI (38.3 mg, 0.20 mmol) and morpholine (17.4 mg, 0.20 mmol) was stirred at room temperature in THF (1.33 mL) at room temperature. One drop of DMF was added to ensure solubility. The reaction mixture was allowed to stir overnight. The mixture was concentrated in vacuo, taken up in methylene chloride and washed with 10% aqueous citric acid. The organic phase was dried over anhydrous sodium sulfate and concentrated in vacuo to afford a reddish-brown solid, which was recrystallized in diisopropyl ether to give 19 mg of the title compound. MS (M+1)=446.5.

reactant | 1-ethyl-3-methyl-5-(5-m-tolyl-2-trifluoromethyl-3H-imidazol-4-yl)-1,3-dihydro-benzoimidazol-2-one | 0.13 mmol, 50 mg | C(C)N1C(N(C2=C1C=CC(=C2)C=2NC(=NC2C=2C=C(C=CC2)C)C(F)(F)F)C)=O | C21H19F3N4O
reactant | EDCI | 0.20 mmol, 38.3 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | morpholine | 0.20 mmol, 17.4 mg | N1CCOCC1 | C4H9NO
reactant | THF | 1.33 mL | C1CCOC1 | C4H8O
catalyst | DMF | One drop | CN(C)C=O | C3H7NO
product | 1-Ethyl-3-methyl-5-[2-(morpholine-4-carbonyl)-5-m-tolyl-3H-imidazol-4-yl]-1,3-dihydro-benzoimidazol-2-one | 19 mg | C(C)N1C(N(C2=C1C=CC(=C2)C=2NC(=NC2C=2C=C(C=CC2)C)C(=O)N2CCOCC2)C)=O | C25H27N5O3
